US05508273
A solution of 2-(trifluoromethyl)benzhydryl bromide (25.2 g, 79.8 mmol) in triethyl phosphite (20.5 mL, 120 mmol), under N2, was heated at 155° C. for 16 hours. Excess triethyl phosphite was removed by distillation to give a yellow oil, 28.8 g. The crude product was chromatographed on a silica gel column. Elution with ethyl acetate/hexane (1:1) afforded analytically pure O,O-diethyl 2-trifluoromethylphenyl(phenyl)methylphosphonate as a pale yellow oil. 300 MHz 1H NMR (CDCl3): δ4.86 (d, 1H, J-26.18 Hz, PCH). MS: 373 (M+1).

reactant | 2-(trifluoromethyl)benzhydryl bromide | 79.8 mmol, 25.2 g | FC(C1=C(C(C2=CC=CC=C2)Br)C=CC=C1)(F)F | C14H10BrF3
reactant | triethyl phosphite | 120 mmol, 20.5 mL | P(OCC)(OCC)OCC | C6H15O3P
product | O,O-diethyl 2-trifluoromethylphenyl(phenyl)methylphosphonate | FC(C1=C(C=CC=C1)C(C1=CC=CC=C1)P(OCC)(OCC)=O)(F)F | C18H20F3O3P
